US09351973B2
Phenyl chloroformate (0.764 mL, 0.0060 mol) was added to a mixture of copper iodide (1.082 g, 0.0056 mol), dimethylsulphide (2.78 mL, 0.0380 mol) and 3-bromo-5-fluoropyridine (1.0 g, 0.0056 mol) in anhydrous tetrahydofuran (25 mL) at room temperature and the mixture was stirred for 40-50 min. To this suspension cyclopropyl magnesium bromide (12.13 mL, 0.0060 mol, 0.5M solution in tetrahydofuran) was added at −25 to −20° C. over 30-40 min. The mixture was stirred at this temperature for 30 min, and then warmed slowly to room temperature over 1.0-1.5 h. The reaction mixture was quenched with 20% ammonium chloride (25 mL), followed by extraction of the aqueous layer with ethyl acetate (50 mL). The organic layer was washed with 20% ammonium chloride (25 mL), then saturated sodium chloride (25 mL), and dried over anhydrous sodium sulphate. Silica gel chromatography using 0-5% ethyl acetate-hexane gradient yielded crude phenyl 3-bromo-4-cyclopropyl-5-fluoropyridine-1 (4H)-carboxylate MS (M+1): 339.7.

reactant | Phenyl chloroformate | 0.0060 mol, 0.764 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | dimethylsulphide | 0.0380 mol, 2.78 mL | CSC | C2H6S
reactant | 3-bromo-5-fluoropyridine | 0.0056 mol, 1.0 g | BrC=1C=NC=C(C1)F | C5H3BrFN
reactant | cyclopropyl magnesium bromide | 0.0060 mol, 0.5M, 12.13 mL | C1(CC1)[Mg]Br
solvent | tetrahydofuran | 25 mL | O1CCCC1 | C4H8O
catalyst | copper iodide | 0.0056 mol, 1.082 g | [Cu](I)I
product | phenyl 3-bromo-4-cyclopropyl-5-fluoropyridine-1 (4H)-carboxylate | BrC1=CN(C=C(C1C1CC1)F)C(=O)OC1=CC=CC=C1 | C15H13BrFNO2
